US07488844B2
(i) N-heptyl-N-[(1-methylindol-2-yl)methyl]amine
To a solution of 1-methylindole-2-carbaldehyde (1.59 g, 10.0 mmol) and heptylamine (1.49 mL, 10.0 mmol) in ethanol (50 mL) were added acetic acid (2.3 mL, 40 mmol) and sodium cyanoborohydride (0.75 g, 12.0 mmol) and the reaction mixture was stirred at room temperature overnight. Water (5 mL) was added and the mixture was concentrated in vacuo. The residue was taken up in ethyl acetate (75 mL) and aqueous 1 M KOH (75 mL) and the phases were separated. The aqueous layer was extracted with ethyl acetate (2×75 mL) and the combined organic phase was washed with brine (75 mL), dried over Na2SO4, and concentrated in vacuo. Purification on a column of silica gel (130 g) with ethyl acetate (17-33% gradient) in heptane as the eluent yielded 1.57 g (61%) of a yellow oil, which solidified upon standing.

reactant | 1-methylindole-2-carbaldehyde | 10.0 mmol, 1.59 g | CN1C(=CC2=CC=CC=C12)C=O | C10H9NO
reactant | heptylamine | 10.0 mmol, 1.49 mL | C(CCCCCC)N | C7H17N
reactant | acetic acid | 40 mmol, 2.3 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 12.0 mmol, 0.75 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | Water | 5 mL | O | H2O
product | N-heptyl-N-[(1-methylindol-2-yl)methyl]amine | 1.57 g, 61% | C(CCCCCC)NCC=1N(C2=CC=CC=C2C1)C | C17H26N2
